US07151105B2
Step 2: 2-Methoxy-1-methyl-3-(2,2,2-trifluoro-ethyl)-benzene
Trimethyl(trifluoromethyl)silane (25.39 mL, 162.5 mmol) was added to a stirred mixture of 1-bromomethyl-2-methoxy-3-methyl-benzene(19 g, 65 mmol), KF (9.44 g, 162.5 mmol), CuI (37.10 g, 195 mmol) in DMF (75 mL) and NMP (75 mL). The reaction mixture was heated to 55° C. under N2 for 15 hours. The mixture was poured into water, made basic with 1 N NaOH and extracted with EtOAc. The organic layers were washed with brine, dried over Na2SO4 and concentrated to a black oil. Flash column chromatography (0% to 60% EtOAc in hexanes) gave the product as a yellow oil (12.0 g). LCMS: APCI−VE=203

reactant | Trimethyl(trifluoromethyl)silane | 162.5 mmol, 25.39 mL | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | 1-bromomethyl-2-methoxy-3-methyl-benzene | 65 mmol, 19 g | BrCC1=C(C(=CC=C1)C)OC | C9H11BrO
reactant | KF | 162.5 mmol, 9.44 g | [F-].[K+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
solvent | NMP | 75 mL | CN1CCCC1=O | C5H9NO
catalyst | CuI | 195 mmol, 37.10 g | [Cu]I
solvent | water | O | H2O
product | 2-Methoxy-1-methyl-3-(2,2,2-trifluoro-ethyl)-benzene | 12.0 g | COC1=C(C=CC=C1CC(F)(F)F)C | C10H11F3O
